US04215048
Methyl-2-lithio propionate is generated from methyl propionate (176 mg, 2 mM) and lithium diisopropylamide (2 mM) in tetrahydrofuran (5 ml) under nitrogen in the usual manner. To this reagent, (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol (258 mg, 0.84 mM) in tetrahydrofuran (5 ml) is slowly added at -78° C. and stirred for two hours. The resulting mixture is allowed to warm to room temperature and stirred for an additional hour. This mixture is then poured into saturated aqueous ammonium chloride solution (5 ml) and extracted with ether (5×10 ml). The combined organic layers are dried (Na2SO4), the solvent is removed in vacuo and the residue is purified by column chromatography on silica gel (30 g) with ether-petroleum ether (4:1) to give (1RS,4SR,5RS)-4-(4-carbomethoxypentyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol (71 mg, 30%) as a colorless oil.

reactant | methyl propionate | 2 mM, 176 mg | C(CC)(=O)OC | C4H8O2
reactant | lithium diisopropylamide | 2 mM | C(C)(C)[N-]C(C)C.[Li+]
reactant | (1RS,4SR,5RS)-4-(3-methanesulfonyloxypropyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol | 0.84 mM, 258 mg | CS(=O)(=O)OCCCC1(OCC2(CCC1O2)CCO)C | C13H24O6S
reactant | ammonium chloride | 5 ml | [Cl-].[NH4+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | (1RS,4SR,5RS)-4-(4-carbomethoxypentyl)-4-methyl-3,8-dioxabicyclo[3.2.1]octane-1-ethanol | 71 mg, 30% | C(=O)(OC)C(CCCC1(OCC2(CCC1O2)CCO)C)C | C16H28O5
